US07101898B2
((S)-2-((Piperidin-1-yl)methyl)pyrrolidin-1-yl)-(6-(trifluoromethyl)benzofuran-2-yl)methanone
71 mg of the title compound were synthesized as described for (E)-3-(4-bromophenyl)-1-((S)-2-((pyrrolidin-1-yl)methyl)pyrrolidin-1-yl)propenone, using 6-(trifluoromethyl)benzofuran-2-carboxylic acid instead of (E)-4-bromocinnamic acid and 1-(((S)-pyrrolidin-2-yl)methyl)piperidine instead of (S)-2-((pyrrolidin-1-yl)methyl)pyrrolidine.

reactant | 6-(trifluoromethyl)benzofuran-2-carboxylic acid | FC(C1=CC2=C(C=C(O2)C(=O)O)C=C1)(F)F | C10H5F3O3
reactant | 1-(((S)-pyrrolidin-2-yl)methyl)piperidine | N1[C@@H](CCC1)CN1CCCCC1 | C10H20N2
product | ((S)-2-((Piperidin-1-yl)methyl)pyrrolidin-1-yl)-(6-(trifluoromethyl)benzofuran-2-yl)methanone | 71 mg | N1(CCCCC1)C[C@H]1N(CCC1)C(=O)C=1OC2=C(C1)C=CC(=C2)C(F)(F)F | C20H23F3N2O2
